US08133995B2
Preparation of N-{4-[4-amino-7-(hydroxymethyl)-6-(methoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea
To a solution of Intermediate AW (N-{4-[4-amino-7-formyl-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea (50 mg, 0.1 mmol)) in THF at −78° C. under N2 was added DIBAL-H (0.5 ml, 0.5 mmol). The reaction mixture was stirred for 30 min. and was allowed to warm up to 0° C. The reaction was diluted with ethyl acetate (5 mL) and quenched with aqueous saturated Rochelle's salt (5 ml). The reaction mixture was stirred for 10 min at 0° C. and then warmed to rt. The organic layer was collected and washed with aqueous Rochelle's salt (2×), dried (Na2SO4) and concentrated. The crude concentrate was purified via column chromatography (5:95, v/v MeOH—CH2Cl2) to afford 25 mg of the title compound (yield 49%). 1H-NMR (DMSO-d6) 9.32 (s, 1H), 8.96 (d, J=3 Hz, 1H), 8.63 (d, J=5 Hz, 1H), 7.90 (s, 1H), 7.58 (d, J=7 Hz, 2H), 7.50 to 7.32 (m, 3H), 5.0 (t, J=5 Hz, 1H), 4.79 (d, J=5 Hz, 2H), 4.30 (s, 3H), 3.16 (s, 2H) ppm; MS [M+H]+=505.1; LCMS RT=2.66 min.

reactant | N-{4-[4-amino-7-formyl-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea | 0.1 mmol, 50 mg | NC1=NC=NN2C1=C(C(=C2C=O)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C23H18F4N6O3
reactant | DIBAL-H | 0.5 mmol, 0.5 ml | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | N-{4-[4-amino-7-(hydroxymethyl)-6-(methoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea | 25 mg, yield 49% | NC1=NC=NN2C1=C(C(=C2CO)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C23H20F4N6O3
